US04910341
Preparation of 1-(γ-hydroxypropyl)amino-2-nitro-4-[(β-hydroxyethyl)amino]benzene
0.02 mole (5.1 g) of N-[4-(γ-hydroxypropyl)amino-3-nitrophenyl]oxazolidone, prepared according to Example 6 or 8, is added to 22 moles of 2N sodium hydroxide. After 30 minutes' heating at 80° C., the expected product crystallizes from the reaction medium.

reactant | N-[4-(γ-hydroxypropyl)amino-3-nitrophenyl]oxazolidone | 0.02 mole, 5.1 g | OCCCNC1=C(C=C(C=C1)N1[CH-]OCC1=O)[N+](=O)[O-]
reactant | sodium hydroxide | 22 moles, 2N | [OH-].[Na+]
product | 1-(γ-hydroxypropyl)amino-2-nitro-4-[(β-hydroxyethyl)amino]benzene | OCCCNC1=C(C=C(C=C1)NCCO)[N+](=O)[O-] | C11H17N3O4
